US06969713B2
i) 2-Chloro-N-(2-trifluoromethylphenyl)acetamide
The subtitle compound was prepared from 2-trifluoromethylaniline(10.5 g) and chloroacetyl chloride (6.8 ml) by the method of Example 33 step (iii) as a white solid. Yield: 13.7 g

reactant | 2-trifluoromethylaniline | 10.5 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | chloroacetyl chloride | 6.8 ml | ClCC(=O)Cl | C2H2Cl2O
product | 2-Chloro-N-(2-trifluoromethylphenyl)acetamide | ClCC(=O)NC1=C(C=CC=C1)C(F)(F)F | C9H7ClF3NO
